US07582651B2
(4) (2E)-3-{3-cyano-1-[(4-fluorophenyl)(phenyl)methyl]-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(2,2-dimethyltetrahydro-2H-pyran-4-yl)prop-2-enamide
To a solution of (2E)-3-{3-cyano-1-[(4-fluorophenyl)(phenyl)methyl]-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid (1.00 g, 2.35 mmol) in THF (10 ml) were added DMF (0.10 ml) and oxalylchloride (0.246 ml, 2.82 mmol), which was stirred at room temperature for 1 hour and the solvent was distilled off under reduced pressure. The residue was added under ice-cooling to a solution of 2,2-dimethyltetrahydro-2H-pyran-4-ylamine (455 mg, 3.53 mmol), triethylamine (1.09 ml, 7.81 mmol) and THF (10 ml), the mixture was stirred under ice-cooling for 2 hours and at room temperature for 12 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from ethyl acetate and hexane to yield the objective product as a solid material.

reactant | (2E)-3-{3-cyano-1-[(4-fluorophenyl)(phenyl)methyl]-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid | 2.35 mmol, 1.00 g | C(#N)C1=C(N(C2=NC(=CC(=C21)C)C)C(C2=CC=CC=C2)C2=CC=C(C=C2)F)/C=C/C(=O)O | C26H20FN3O2
reactant | oxalylchloride | 2.82 mmol, 0.246 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,2-dimethyltetrahydro-2H-pyran-4-ylamine | 3.53 mmol, 455 mg | CC1(OCCC(C1)N)C | C7H15NO
reactant | triethylamine | 7.81 mmol, 1.09 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | DMF | 0.10 ml | CN(C)C=O | C3H7NO
product | (2E)-3-{3-cyano-1-[(4-fluorophenyl)(phenyl)methyl]-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(2,2-dimethyltetrahydro-2H-pyran-4-yl)prop-2-enamide | C(#N)C1=C(N(C2=NC(=CC(=C21)C)C)C(C2=CC=CC=C2)C2=CC=C(C=C2)F)/C=C/C(=O)NC2CC(OCC2)(C)C | C33H33FN4O2
